US07829560B2
3,4,5,6-Tetrahydro-2 H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B127).
Compound is formed by reacting 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide and piperidine under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.34 (s, 1H), 8.28 (d, 1H), 8.22 (m, 1H), 7.88 (m, 1H), 7.59 (m, 2 H), 7.42 (d, 1H), 7.40 (s, 1H), 7.15 (m, 1H), 7.05 (d, 1H), 4.35 (broad t, 2H), 3.61 (m, 4H), 3.38 (s, 4H), 2.90 (broad t, 2H), 2.60 (m, 4H), 1.60 (m, 6H). MS: 461.4 (M+1).

reactant | 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C22H22ClN3O3
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3,4,5,6-Tetrahydro-2 H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C1=CC(=NC=C1)N1CCCCC1 | C27H32N4O3
